US05547606
(Preparation of trans-4-(2-(trans-4-(3, 4-difluorophenyl) cyclohexyl)eth-yl)-1-n-propyl-1-silacyclohexane)
A mixed solution of 3.7 g (10 mmol) of 1-chloro-4-(2-(trans-4-(3,4-difluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane and 30 ml of tetrahydrofuran (hereafter abbreviated as "THF") was prepared, and a 5 ml THF solution of 2.5M n-propylmagnesium chloride (12.5 mmol) was dripped into this solution. The silacyclohexane rings of the target product thus obtained were a mixture of trans isomers and cis isomers. Following a conventional after treatment, they were separated by means of chromatography to obtain 2.9 g of the trans isomers of the target product (yield 80%). The results of its analysis are shown below.

reactant | 1-chloro-4-(2-(trans-4-(3,4-difluorophenyl)cyclohexyl)ethyl)-1-silacyclohexane | 10 mmol, 3.7 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)F)F | C19H27ClF2Si
reactant | n-propylmagnesium chloride | 12.5 mmol, 2.5M | C(CC)[Mg]Cl
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | trans-4-(2-(trans-4-(3, 4-difluorophenyl) cyclohexyl)eth-yl)-1-n-propyl-1-silacyclohexane | yield 80% | FC=1C=C(C=CC1F)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[Si@H](CC1)CCC | C22H34F2Si
